US09315458B2
A) methyl 5-((6-chloropyridin-3-yl)methyl)-2-hydroxy-4-methylbenzoate
To a solution of methyl 5-bromo-2-hydroxy-4-methylbenzoate (0.61 g) in THF (20.0 mL) were added 0.5M (2-chloro-5-pyridyl)methylzinc chloride/THF solution (12.5 mL) and bis(tri-tert-butylphosphine)palladium(0) (0.13 g), and the mixture was stirred overnight at room temperature under argon atmosphere. The reaction mixture was concentrated under reduced pressure, and the residue was purified by silica gel column chromatography (ethyl acetate/hexane) to give the title compound (0.52 g).

reactant | methyl 5-bromo-2-hydroxy-4-methylbenzoate | 0.61 g | BrC=1C(=CC(=C(C(=O)OC)C1)O)C | C9H9BrO3
reactant | (2-chloro-5-pyridyl)methylzinc chloride THF | 0.5M, 12.5 mL | [Cl-].ClC1=NC=C(C=C1)C[Zn+].C1CCOC1
solvent | THF | 20.0 mL | C1CCOC1 | C4H8O
catalyst | bis(tri-tert-butylphosphine)palladium(0) | 0.13 g | CC(C)([P](C(C)(C)C)([Pd][P](C(C)(C)C)(C(C)(C)C)C(C)(C)C)C(C)(C)C)C
product | methyl 5-((6-chloropyridin-3-yl)methyl)-2-hydroxy-4-methylbenzoate | 0.52 g | ClC1=CC=C(C=N1)CC=1C(=CC(=C(C(=O)OC)C1)O)C | C15H14ClNO3
